US09427475B2
Step C: 3-(β-D-glucopyranosyl)-1-propene
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-propene (4.15 g, 11.14 mmol) in CH3OH (50 mL) was added NaOCH3 (0.56 mL, 2.2 mmol, 4.0 M in CH3OH). After stirring at rt for 2 hr, the reaction mixture was neutralized using Dowex 50W (acidic form). The resin was filtered off and the filtrate was concentrated to give the title compound. 1H NMR (DMSO-d6) δ 2.09 (m, 1H), 2.49 (m, 1H), 2.88 (t, J=8.9, 1H), 2.98-3.07 (m, 3H), 3.11 (m, 1H), 3.39 (dd, J=11.4, 4.7, 1H), 3.60 (d, J=11.6, 1H), 4.99 (dd, J=10.3, 0.9, 1H), 5.06 (d, J=17.2, 1H), 5.90 (m, 1H).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-propene | 11.14 mmol, 4.15 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)CC=C | C17H24O9
reactant | NaOCH3 | 2.2 mmol, 4.0 M, 0.56 mL | O([Na])C
solvent | CH3OH | 50 mL | CO | CH4O
product | 3-(β-D-glucopyranosyl)-1-propene | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC=C | C9H16O5
